US08664258B2
Preparation of 4-Chloro-2,3-dihydro-indole-1-carboxylic acid [4-(2-amino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-amide (Compound 326)
A 1 mL aliquot of tert-butyl {2-[4-({[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}amino)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]ethyl}carbamate in dimethylformamide (78.8 μmol) was added to 4-chloroindoline (14.52 mg, 1.2 eq) and stirred at room temperature for 18 hr. To this was added 2.0M hydrochloric acid in ether (197 μL, 5 eq) and the reaction was stirred at room temperature for 24 hr (2-3 drops of concentrated hydrochloric acid was added if the deprotection was incomplete and the resulting mixture was stirred for another 24 hr). The ether and hydrochloric acid were evaporated under a stream of nitrogen and the resulting material was purified by HPLC. The proper fractions were collected and lyophilized to afford the title compound as a white solid in 43.5% yield. LCMS m/z (%)=412 (M+H 35Cl, 100), 414 (M+H 37Cl, 36). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.10-3.24 (m, 4 H), 3.71 (s, 3 H), 4.13-4.21 (m, 4 H), 6.34 (d, J=2.02 Hz, 1 H), 6.96 (d, J=8.08 Hz, 1 H), 7.13-7.21 (m, 2 H), 7.48-7.50 (m, 2 H), 7.64 (dd, J=8.84, 2.78 Hz, 1 H), 7.81 (d, J=7.58 Hz, 1 H), 7.92 (s, 2 H), 8.63 (s, 1 H).

reactant | tert-butyl {2-[4-({[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}amino)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]ethyl}carbamate | O=C1N(C(CC1)=O)OC(=O)NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C22H27N5O7
reactant | dimethylformamide | 78.8 μmol | CN(C=O)C | C3H7NO
reactant | 4-chloroindoline | 14.52 mg, 1.2 eq | ClC1=C2CCNC2=CC=C1 | C8H8ClN
reactant | hydrochloric acid | 2.0M | Cl | ClH
reactant | ether | 197 μL, 5 eq | CCOCC | C4H10O
catalyst | hydrochloric acid | 2-3 drops | Cl | ClH
product | 4-Chloro-2,3-dihydro-indole-1-carboxylic acid [4-(2-amino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-amide | 43.5% yield | NCCOC1=C(C=C(C=C1)NC(=O)N1CCC2=C(C=CC=C12)Cl)C=1N(N=CC1)C | C21H22ClN5O2
